US04625047
To a stirred solution of sodium (1.449 g, 0.063 mole) in ethanol (150 ml) and ethyl acetoacetate (8.20 g, 0.063 mole) was added (2,3-dichloro-4-(3-methyl-1-oxo-2-butenyl)phenoxy]acetic acid (9.09 g, 0.03 mole). The reaction mixture was heated at reflux for 31/2 hours then the solvent was distilled at reduced pressure. The residue was acidified with hydrochloric acid, extracted with ether and sodium bicarbonate, acidified with hydrochloric acid, extracted with ether and methylene chloride, washed with water, dried over magnesium sulfate, and evaporated at reduced pressure to give 4.5 g of [2,3-dichloro-4-(5,5-dimethyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetic acid which melted at 178°-180° C. after purification by chromatography on silica and recrystallization from 42 ml of acetonitrile.

reactant | sodium | 0.063 mole, 1.449 g | [Na] | Na
reactant | ethyl acetoacetate | 0.063 mole, 8.20 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | (2,3-dichloro-4-(3-methyl-1-oxo-2-butenyl)phenoxy]acetic acid | 0.03 mole, 9.09 g | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(C=C(C)C)=O | C13H12Cl2O4
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | [2,3-dichloro-4-(5,5-dimethyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetic acid | 4.5 g | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C1=CC(CC(C1)(C)C)=O | C16H16Cl2O4
